US08168659B2
N-[1-Methyl-1-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-acetamide
Add acetonitrile (67.4 L; 53.0 kg) to a reaction vessel containing 2-(6-trifluoromethyl-pyridin-3-yl)-propan-2-ol (52 moles; 12.8 kg) and cool to 0-5° C. Add concentrated sulfuric acid (372 moles; 19.8 L; 36.5 kg) slowly, maintaining the internal reaction temperature between 0-15° C. Heat the solution to 25-30° C. for 24 hours, and observe the completion of the reaction by HPLC. Cool the mixture to 0° C. while stirring and add water (95.0 L; 95.0 kg). Add a solution of aqueous ammonia (57.5 kg) to adjust the solution pH to 8.0-9.0, and then add tert-butyl methyl ether (81.1 L; 60.0 kg). Separate the lower aqueous layer, concentrate the organic layer to approximately 3 volumes, and cool the contents of the reaction to −5-0° C. Filter the resultant solids and dry under vacuum until constant weight and collect (13.4 kg; 87.3%, based on HPLC) of the titled compound as a pale yellow solid in 81.8% purity. 1H NMR (DMSO-d6, 500 MHz): δ 8.68 (d, 1 H, J=2 Hz), 8.30 (s, 1 H), 7.92 (dd, 1 H, J=2.5, 8.5 Hz), 7.79 (d, 1 H, J=5.8 Hz), 1.82 (s, 3 H), 1.56 (s, 6 H).

reactant | acetonitrile | 67.4 L, 53.0 kg | C(C)#N | C2H3N
reactant | 2-(6-trifluoromethyl-pyridin-3-yl)-propan-2-ol | 52 moles, 12.8 kg | FC(C1=CC=C(C=N1)C(C)(C)O)(F)F | C9H10F3NO
reactant | sulfuric acid | 372 moles, 19.8 L, 36.5 kg | S(O)(O)(=O)=O | H2O4S
reactant | ammonia | 57.5 kg | N | H3N
solvent | tert-butyl methyl ether | 81.1 L, 60.0 kg | COC(C)(C)C | C5H12O
solvent | water | 95.0 L, 95.0 kg | O | H2O
product | N-[1-Methyl-1-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-acetamide | CC(C)(C=1C=NC(=CC1)C(F)(F)F)NC(C)=O | C11H13F3N2O
